US05693636
a) N-t-butoxycarbonyl-3-nitrobenzylamine
3-nitrobenzylamine hydrochloride (5.24 g, 27.8 mmol) was treated with aq. 1N NaOH (28 mL) and di-t-butyl-dicarbonate (6.7 g) according to the procedure of Example 34(a) to yield the title compound as a white solid (6.78 g, 96%). 1H-NMR (CDCl3) δ1.44(9H, s), 4.40(2H, d, J=8 Hz), 5.15(1H, br s), 7.40-7.75(2H, m), 8.05-8.25(2H, m); TLC Rf 0.41 (20% ethyl acetate/hexane).

reactant | 3-nitrobenzylamine hydrochloride | 27.8 mmol, 5.24 g | Cl.[N+](=O)([O-])C=1C=C(CN)C=CC1
reactant | NaOH | 1N, 28 mL | [OH-].[Na+]
reactant | di-t-butyl-dicarbonate | 6.7 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
product | N-t-butoxycarbonyl-3-nitrobenzylamine | 6.78 g, 96% | C(C)(C)(C)OC(=O)NCC1=CC(=CC=C1)[N+](=O)[O-] | C12H16N2O4
